US04409017
A mixture of ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate (1.25 g), sodium methoxide (0.63 g) and toluene was heated under reflux for 4 hrs. The mixture was cooled, poured into water and extracted with ethyl acetate. The organic fraction was dried (MgSO4) and evaporated to give 2-{4-[N-(7-chloro-1-methoxyisoquinolin-3-yl)-N-methylamino]phenoxy}propionic acid.

reactant | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}propionate | 1.25 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C21H20Cl2N2O3
reactant | sodium methoxide | 0.63 g | C[O-].[Na+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-{4-[N-(7-chloro-1-methoxyisoquinolin-3-yl)-N-methylamino]phenoxy}propionic acid | ClC1=CC=C2C=C(N=C(C2=C1)OC)N(C)C1=CC=C(OC(C(=O)O)C)C=C1 | C20H19ClN2O4
